US05559230
To a mixture of 5-oxo-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (4 g) and pyridine (50 ml) is added hydroxylamine hydrochloride (1.84 g) and the mixture is refluxed for 2.5 hours. The reaction solution is concentrated and water is added to the resulting residue. The precipitated crystal is collected by filtration, and recrystallized from dioxane/water to give 5-hydroxyimino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2 g) as white powder, m.p. 272°-273° C.

reactant | 5-oxo-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 4 g | O=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=CC(=CC(=C2)Cl)Cl)=O)=O | C24H18Cl2N2O3
reactant | hydroxylamine hydrochloride | 1.84 g | Cl.NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-hydroxyimino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2 g | ON=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=CC(=CC(=C2)Cl)Cl)=O)=O | C24H19Cl2N3O3
